US05760032
Benzyl (R)-4-amino-4-(4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-9-yl)butanoate di-p-toluenesulfonate (3.0 g) and 2-chlorophenyl isocyanate (0.46 ml) were dissolved in DMF (30 ml). Triethylamine (1.46 ml) was added and the mixture was stirred and water was added to the reaction mixture. The mixture was washed with an aqueous citric acid solution, saturated brine, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography using ethyl acetate as an eluent to give 2.02 g of benzyl (R)-4-(4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-9-yl)-4-(3-(2-chlorophenyl)ureido)butanoate.

reactant | Benzyl (R)-4-amino-4-(4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-9-yl)butanoate di-p-toluenesulfonate | 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@H](CCC(=O)OCC1=CC=CC=C1)C1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC
reactant | 2-chlorophenyl isocyanate | 0.46 ml | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
reactant | Triethylamine | 1.46 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | benzyl (R)-4-(4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-9-yl)-4-(3-(2-chlorophenyl)ureido)butanoate | 2.02 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)[C@@H](CCC(=O)OCC2=CC=CC=C2)NC(=O)NC2=C(C=CC=C2)Cl | C34H30Cl2N6O3S
